US07820823B2
7-Chloro-6-fluoro-1-(5-fluoro-pyridin-2-yl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic Acid Ethyl Ester
A solution of 0.747 g of 2-(2,4-dichloro-5-fluoro-benzoyl)-3-ethoxy-acrylic acid ethyl ester (2.23 mmol) and 0.250 g of 2-amino-5-fluoropyridine (2.23 mmol) in 5 ml ethanol was stirred at reflux for 25 hrs. The reaction was monitored by TLC. The ethanol was evaporated and the last traces of ethanol were distilled from an azeotrope with a mixture of 10 ml heptane and 10 ml ethyl acetate. The yellow oil was dissolved in 10 ml of THF, reacted with 120 mg of a 50% NaH suspension in oil and stirred at reflux over night. The solvent was evaporated, the residue dissolved in dichloromethane/methanol 9:1, washed with water and brine, dried over Mg sulfate, filtered and evaporated. The residue was digested in ethyl acetate, and the solid filtered.

reactant | 2-(2,4-dichloro-5-fluoro-benzoyl)-3-ethoxy-acrylic acid ethyl ester | 2.23 mmol, 0.747 g | C(C)OC(C(=COCC)C(C1=C(C=C(C(=C1)F)Cl)Cl)=O)=O | C14H13Cl2FO4
reactant | 2-amino-5-fluoropyridine | 2.23 mmol, 0.250 g | NC1=NC=C(C=C1)F | C5H5FN2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-Chloro-6-fluoro-1-(5-fluoro-pyridin-2-yl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CN(C2=CC(=C(C=C2C1=O)F)Cl)C1=NC=C(C=C1)F | C17H11ClF2N2O3
